US08530517B2
(E)-Octadeca-9,12-dienoic acid 3-adamantan-1-yl-4′-(2-carboxyvinyl)-biphenyl-4-yl ester ST5633AA1
TFA (1.6 ml) was dropped into an ice-cooled solution of octadeca-9,12-dienoic acid (E)-3-adamantan-1-yl-4′-(2-tert-butoxycarbonylvinyl)biphenyl-4-yl ester (110 mg, 0.159 mmol) in DCM (1.6 ml) and the resulting solution was stirred for 30 min at 0° C. The solvent was removed under reduced pressure to obtain the title compound as a white solid (100 mg, 99%).

reactant | TFA | 1.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | octadeca-9,12-dienoic acid (E)-3-adamantan-1-yl-4′-(2-tert-butoxycarbonylvinyl)biphenyl-4-yl ester | 0.159 mmol, 110 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC(CCCCCCCC=CCC=CCCCCC)=O)C2=CC=C(C=C2)\C=C\C(=O)OC(C)(C)C | C47H64O4
solvent | DCM | 1.6 ml | C(Cl)Cl | CH2Cl2
product | (E)-Octadeca-9,12-dienoic acid 3-adamantan-1-yl-4′-(2-carboxyvinyl)-biphenyl-4-yl ester | 100 mg, 99% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC(CCCCCCC\C=C\CC=CCCCCC)=O)C2=CC=C(C=C2)C=CC(=O)O | C43H56O4
